US04175203
A solution of [2-(3-hydroxypropyl)phenyl]acetonitrile (52.5 g., 0.30 mole) and sodium hydroxide (40 g., 1.0 mole) in water (200 ml.) and ethanol (600 ml.) is heated at reflux for 18 hours. The solution is concentrated in vacuo to about half-volume. Water (600 ml.) is added and the resulting solution is acidified with 6 N hydrochloric acid. The precipitated product acid is taken up in ether, washed with water, and dried over magnesium sulfate. The ether is evaporated in vacuo to afford [2-(3-hydroxypropyl)phenyl]acetic acid.

reactant | [2-(3-hydroxypropyl)phenyl]acetonitrile | 0.30 mole, 52.5 g | OCCCC1=C(C=CC=C1)CC#N | C11H13NO
reactant | sodium hydroxide | 1.0 mole, 40 g | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | [2-(3-hydroxypropyl)phenyl]acetic acid | OCCCC1=C(C=CC=C1)CC(=O)O | C11H14O3
